US04136192
2-Cyano-5-(3-phenoxypropoxy)indan-1,3-dione
A mixture of dimethyl 4-(3-phenoxypropoxy)phthalate (6.5g; 0.019 mole), acetonitrile (10ml) and sodium hydride (0.69g of 100%) was stirred at 100° for 6 hours and dry ether added to the cooled yellow product. The solid which separated was filtered off, dissolved in water and the solution strongly acidified with concentrated hydrochloric acid. Filtration of the precipitated solid gave the title compound which recrystallised from ethanol dilute hydrochloric acid with mp 148°-150° (dec) and in 86% yield. (Found; C, 69.00; H, 4.90; N, 4.41; C19H15NO4 0.5H2O requires; C, 69.08; H, 4.88; N, 4.24%).

reactant | dimethyl 4-(3-phenoxypropoxy)phthalate | 0.019 mole, 6.5g | O(C1=CC=CC=C1)CCCOC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C19H20O6
reactant | acetonitrile | 10ml | C(C)#N | C2H3N
reactant | sodium hydride | 0.69g | [H-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2-Cyano-5-(3-phenoxypropoxy)indan-1,3-dione | 86% yield | C(#N)C1C(C2=CC=C(C=C2C1=O)OCCCOC1=CC=CC=C1)=O | C19H15NO4
